US08137821B2
1.3 g (5 mmol) of Dimethylhydroxymethyl-9-anthrylacetylene and 210 mg (5.25 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 50 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 25 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 0.75 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure by an evaporator. The crude reaction product was purified by column chromatography (Hexane/AcOEt=10/1) using silica gel to give 9-anthryl ethyne as an orange-color solid (0.31 g, yield: 31%).

reactant | Dimethylhydroxymethyl-9-anthrylacetylene | 5 mmol, 1.3 g | CC1=C(C2=C(C3=CC=CC=C3C=C2C=C1)C#CCO)C | C19H16O
reactant | NaOH | 5.25 mmol, 210 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 9-anthryl ethyne | 0.31 g, yield: 31% | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C#C | C16H10
